US05817599
Synthesis of 6-(octadecylthio)hexanamide
19.3 Grams of ammonium acetate and 100 ml of N,N-dimethylacetamide were charged in a flask equipped with a stirrer, a condenser and a calcium chloride drying tube and stirred at room temperature. Thereto was slowly added dropwise 21.0 g of 6-(octadecylthio) hexanoic acid chloride, followed by continuing the stirring for 20 hours and, then, stirring with heating at 60° C. by a water bath for 2 hours. The reaction mixture was cooled to room temperature and the precipitated crystal was filtered off under reduced pressure and washed with acetone. The precipitated crystal was filtered off under reduced pressure and washed with distilled water. The crystal was recrystallized from 2-propanol to obtain 16.0 g of the desired product as a white crystal. m.p. 105° C.

reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | 6-(octadecylthio) hexanoic acid chloride | 21.0 g | C(CCCCCCCCCCCCCCCCC)SCCCCCC(=O)Cl | C24H47ClOS
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
product | 6-(octadecylthio)hexanamide | 16.0 g | C(CCCCCCCCCCCCCCCCC)SCCCCCC(=O)N | C24H49NOS
